US06677368B2
2-[4-(2,4-Difluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic Acid (2-Hydroxy-3-pyrrolidin-1-yl-propyl)-amide
4-(2,4-Difluoro-phenyl)-1,3-dihydro-indol-2-one (73.5 mg, 0.3 mmol) was condensed with 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-pyrrolidin-1-yl-propyl)-amide (excess) and piperidine in ethanol to give 75 mg (60%) of the titled compound as a yellow solid.

reactant | 4-(2,4-Difluoro-phenyl)-1,3-dihydro-indol-2-one | 0.3 mmol, 73.5 mg | FC1=C(C=CC(=C1)F)C1=C2CC(NC2=CC=C1)=O | C14H9F2NO
reactant | 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-pyrrolidin-1-yl-propyl)-amide | OC(CNC(=O)C1=C(NC(=C1)C)C=O)CN1CCCC1 | C14H21N3O3
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(2,4-Difluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic Acid (2-Hydroxy-3-pyrrolidin-1-yl-propyl)-amide | 75 mg, 60% | OC(CNC(=O)C1=C(NC(=C1)C)\C=C\1/C(NC2=CC=CC(=C12)C1=C(C=C(C=C1)F)F)=O)CN1CCCC1 | C28H28F2N4O3
